US08314091B2
B: N-tert-Butyl-2-fluoro-3-(piperazin-1-ylmethyl)benzamide
To a stirred mixture of tert-butyl 4-(3-(tert-butylcarbamoyl)-2-fluorobenzyl)piperazine-1-carboxylate (2.54 mmol, 1 g) in dichloromethane at room temperature was added trifluoro-acetic acid (53.9 mmol, 4 mL, 6.14 g). After 3 hours stirring the reaction was concentrated under reduced pressure. The residue was taken up in dichloromethane/methanol and loaded on to strong cation exchange column (10 g) and washed with dichloromethane/methanol. Elution of the column with 2M ammonia in methanol gave the title compound (636 mg). MS (ESI) m/z 294.4 [M+H]+

reactant | tert-butyl 4-(3-(tert-butylcarbamoyl)-2-fluorobenzyl)piperazine-1-carboxylate | 2.54 mmol, 1 g | C(C)(C)(C)NC(=O)C=1C(=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C21H32FN3O3
reactant | trifluoro-acetic acid | 53.9 mmol, 4 mL, 6.14 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-tert-Butyl-2-fluoro-3-(piperazin-1-ylmethyl)benzamide | 636 mg | C(C)(C)(C)NC(C1=C(C(=CC=C1)CN1CCNCC1)F)=O | C16H24FN3O
